US06075160
515 g of 2,4,5-trifluorobenzonitrile in 2000 ml of tetrahydrofuran are introduced into an autoclave and heated to 100° C. 250 ml of liquid ammonia are then pumped in at such a rate that the temperature remains in the range from 100 to 105° C. The mixture is then stirred at this temperature for 8 h and then cooled. The pressure reaches a maximum of 22 bar gauge. After the ammonia has been blown off, the solvent is removed using a rotary evaporator. The residue is stirred into 500 ml of water and placed on a suction filter. After filtering with suction, the residue is again slurried with 200 ml of water and filtered with suction. Drying in a vacuum at 40° C. gives 482 g (95.4% of theory) of 4-cyano-2,5-difluoroaniline having a melting point of from 99 to 100° C.

reactant | 2,4,5-trifluorobenzonitrile | 515 g | FC1=C(C#N)C=C(C(=C1)F)F | C7H2F3N
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 2000 ml | O1CCCC1 | C4H8O
product | 4-cyano-2,5-difluoroaniline | 482 g, 95.4% | C(#N)C1=CC(=C(N)C=C1F)F | C7H4F2N2
